US05525265
Synthesis of 4-hexyloxy-4'-hydroxybiphenyl:
A mixture of 74 g (0.40 moles) of biphenol and 20 g (0.50 moles) of sodium hydroxide in 600 ml of ethanol was refluxed for 1 hour. At reflux temperature 66 g (0.40 moles) of 6-bromohexane were added over a period of 1 hour. The reaction mixture was refluxed for 18 hours and cooled to room temperature, and the precipitate was filtrated. The filtrate was treated with 500 ml of water and the precipitated 4-hexyloxy-4'-hydroxybiphenyl was filtrated and washed with water. After drying 29 g of product were obtained. An additional amount of product was obtained by refluxing the precipitate collected from the reaction mixture with 45 g of potassium hydroxide in 600 ml of ethanol for 3 hours. This mixture was cooled to room temperature and the insoluble dihexyloxybiphenyl filtered off. The clear filtrate was treated with 200 ml of 6N hydrochloric acid and the precipitated 4-hexyloxy-4'-hydroxybiphenyl was filtrated, washed with water, and dried. The yield was 19 g. The total yield was 48 g (44% of theory).

reactant | biphenol | 0.40 moles, 74 g | C=1(C(=CC=CC1)C=1C(=CC=CC1)O)O | C12H10O2
reactant | sodium hydroxide | 0.50 moles, 20 g | [OH-].[Na+]
reactant | 6-bromohexane | 0.40 moles, 66 g | BrCCCCCC | C6H13Br
reactant | ethanol | 600 ml | C(C)O | C2H6O
product | 4-hexyloxy-4'-hydroxybiphenyl | C(CCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C18H22O2
